US04550105
Under ice-cooling and stirring, 21 mg of sodium monomethyldithiocarbamate is added to 2 ml of an aqueous solution containing 85 mg of sodium cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate (anti-isomer). The mixture is stirred at room temperature for 1 hour and another 7 mg of sodium monomethyldithiocarbamate is added. The stirring is continued for an additional 1 hour, the reaction mixture is filtered and the filtrate is washed with ether. The aqueous layer is purified by column chromatography on Amberlite XAD-II and the lyophilized to give sodium cis-3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate (anti-isomer).

reactant | sodium monomethyldithiocarbamate | 21 mg | CSC(N)=S.[Na]
reactant | sodium cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate | 85 mg | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)[O-])=O)=NOC.[Na+]
reactant | sodium monomethyldithiocarbamate | 7 mg | CSC(N)=S.[Na]
product | sodium cis-3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)[O-])=O)=NOC.[Na+] | InChI=1S/C11H13N5O8S2.Na/c1-23-10(19)7-6(9(18)16(7)26(20,21)22)14-8(17)5(15-24-2)4-3-25-11(12)13-4;/h3,6-7H,1-2H3,(H2,12,13)(H,14,17)(H,20,21,22);/q;+1/p-1/t6-,7-;/m0./s1
